US06319932B1
To a solution of (4S, 5R) 4-(3,4-difluorophenyl)-5-(trifluoromethanesulfonyloxymethyl)-oxazolidin-2-one (approximately 1.7 g, 4.6 mmol maximum) in tetrahydrofuran (40 mL) was added imidazole (1.6 g, 23 mmol) and the mixture stirred at ambient temperature 45 min. The volatiles were removed and the residue taken up in ethyl acetate (100 mL), washed with water (2×50 mL), brine (1×50 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to provide an oil. The oil was purified by pressurized silica gel chromatography (5-7% methanol in dichloromethane containing 0.5% NH4OH) to provide (4S, 5R) 4-(3,4-difluorophenyl)-5-(imidazol-1-ylmethyl)-oxazolidin-2-one as a white solid.

reactant | (4S, 5R) 4-(3,4-difluorophenyl)-5-(trifluoromethanesulfonyloxymethyl)-oxazolidin-2-one | 4.6 mmol, approximately 1.7 g | FC=1C=C(C=CC1F)[C@@H]1NC(O[C@H]1COS(=O)(=O)C(F)(F)F)=O | C11H8F5NO5S
reactant | imidazole | 23 mmol, 1.6 g | N1C=NC=C1 | C3H4N2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | (4S, 5R) 4-(3,4-difluorophenyl)-5-(imidazol-1-ylmethyl)-oxazolidin-2-one | FC=1C=C(C=CC1F)[C@@H]1NC(O[C@@H]1CN1C=NC=C1)=O | C13H11F2N3O2
